*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/6.80e-01[uF]/6.3[V]
* Murata P/N :GRT155R60J684KE01
* Property : C = 6.80e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRT155R60J684KE01 Port1 Port2
C01 Port1 N01 6.52e-07
R01 Port1 N01 7.35e+07
L02 N01 N02 2.01e-10
R03 N02 N03 9.73e-03
C04 N03 N04 5.03e-05
R04 N03 N04 7.91e+01
C05 N04 N05 6.87e-05
R05 N04 N05 9.08e+00
C06 N05 N06 7.31e-05
R06 N05 N06 1.44e+00
C07 N06 N07 1.94e-04
R07 N06 N07 1.14e-01
C08 N07 N08 7.53e-05
R08 N07 N08 6.47e-02
C09 N08 N09 5.86e-05
R09 N08 N09 6.77e-03
L10 N09 N10 3.30e-11
R10 N09 N10 1.79e-01
L11 N10 N11 1.14e-10
R11 N10 N11 4.07e-02
C12 N11 N12 6.77e-07
L12 N11 N12 5.70e-11
R12 N11 N12 9.02e-03
C13 N12 Port2 1.62e-11
L13 N12 Port2 2.03e-11
R13 N12 Port2 9.97e-01
.ENDS GRT155R60J684KE01
